US07662830B2
2. 4-[6-(3-Chloro-4-fluoro-phenyl)-2-(4-propyl-piperazin-1-yl)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester
Heat a solution of 4-[2-chloro-6-(3-chloro-4-fluoro-phenyl)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (2.5 g, 5.9 mmol), N-propylpiperazine (5.9 mmol) and DIEA (11.7 mmol) in DMA at 100° C. for 16 h. Cool, partition between 10% NaOH and EtOAc and wash the organic layer with additional NaOH solution (3×). Dry the organic layer (Na2SO4) and concentrate under reduced pressure to afford the title compound.

reactant | 4-[2-chloro-6-(3-chloro-4-fluoro-phenyl)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 5.9 mmol, 2.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=C1)C1=CC(=C(C=C1)F)Cl)Cl | C19H21Cl2FN4O2
reactant | N-propylpiperazine | 5.9 mmol | C(CC)N1CCNCC1 | C7H16N2
reactant | DIEA | 11.7 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 4-[6-(3-Chloro-4-fluoro-phenyl)-2-(4-propyl-piperazin-1-yl)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=C1)C1=CC(=C(C=C1)F)Cl)N1CCN(CC1)CCC | C26H36ClFN6O2
